US20010041720A1
Trimethylhydrazine dihydrochloride (15,3 g, 104 mmol) was suspended in tetrahydrofuran (250 ml) in a one-neck round-bottom flask (1l) equipped with a large magnetic stirrer, and an addition funnel/nitrogen bubbler. The flask was then placed in a water-bath (temp: 10-20° C.), bromo-tris-pyrrolydino-phosphonium-hexafluorophosphate (40,4 g, 86,7 mmol) was added, and under vigorous stirring dropwise addition of diisopropylethylamine (59 ml, 347 mmol). The mixture (with heavy precipitation) was stirred for 5 min., and a solution of the product from step d which is either (3R)-3-benzylpiperidine-1,3-dicarboxylic acid 1-tert-butyl ester or (3S)-3-benzylpiperidine-1,3-dicarboxylic acid 1-tert-butyl ester (27,7 g, 86,7 mmol) in tetrahydrofuran (250 ml) was added slowly over 1,5 hour. The mixture was stirred overnight at room temperature. The reaction was diluted with EtOAc (1000 ml), washed with H2O (500 ml), aqueous NaHSO4, (200 ml, 10%), aqueous NaHCO3 (200 ml, saturated), brine (200 ml), dried over MgSO4, filtered and concentrated in vacuo to afford a thin orange oil. The mixture was dissolved in EtOAc (300 ml), added to SiO2 (150 g) and concentrated in vacuo to a dry powder which was applied onto a filter packed with SiO2 (150 g), washed with heptan (1l) and the desired compound was liberated with EtOAc (2,5l). After concentration in vacuo, the product which is either (3R)-3-benzyl-3-(N,N′,N′-trimethylhydrazinocarbonyl)-piperidine-1-carboxylic acid tert-butyl ester or (3S)-3-benzyl-3-(N,N′,N′-trimethylhydrazinocarbonyl)-piperidine-1-carboxylic acid tert-butyl ester (49 g) as an orange oil was obtained.

reactant | Trimethylhydrazine dihydrochloride | 104 mmol, 15,3 g | Cl.Cl.CNN(C)C
reactant | diisopropylethylamine | 347 mmol, 59 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (3R)-3-benzylpiperidine-1,3-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@](CCC1)(C(=O)O)CC1=CC=CC=C1 | C18H25NO4
reactant | (3S)-3-benzylpiperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 86,7 mmol, 27,7 g | C(C)(C)(C)OC(=O)N1C[C@@](CCC1)(C(=O)O)CC1=CC=CC=C1 | C18H25NO4
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | EtOAc | 1000 ml | CCOC(=O)C | C4H8O2
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
solvent | heptan | CCCCCCC | C7H16
product | (3S)-3-benzyl-3-(N,N′,N′-trimethylhydrazinocarbonyl)-piperidine-1-carboxylic acid tert-butyl ester | 49 g | C(C)(C)(C)OC(=O)N1C[C@@](CCC1)(C(=O)N(N(C)C)C)CC1=CC=CC=C1 | C21H33N3O3
